US09126952B2
226.0 g (01.64 mol) of 4-methoxybenzyl alcohol in 0.5 l of toluene were added dropwise to a suspension of 80.0 g (2.0 mol) of sodium hydride [60% in paraffin oil] in 3.0 l of toluene between 15° C. and 20° C. The mixture was subsequently stirred at room temperature for a further 1 h. 165.9 g (1.64 mol) of 7-bromo-4-chloroquinazoline were then added in portions, and the reaction mixture was stirred for 48 h. Conventional work-up gave 194.8 g of 7-bromo-4-(4-methoxybenzyloxy)quinazoline as solid.

reactant | 4-methoxybenzyl alcohol | 226.0 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | sodium hydride | 2.0 mol, 80.0 g | [H-].[Na+]
reactant | 7-bromo-4-chloroquinazoline | 1.64 mol, 165.9 g | BrC1=CC=C2C(=NC=NC2=C1)Cl | C8H4BrClN2
solvent | toluene | 0.5 l | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.0 l | C1(=CC=CC=C1)C | C7H8
product | 7-bromo-4-(4-methoxybenzyloxy)quinazoline | 194.8 g | BrC1=CC=C2C(=NC=NC2=C1)OCC1=CC=C(C=C1)OC | C16H13BrN2O2
